US05753679
0.52 g (0.0023 mol) of 1-(4-methoxy-benzyl)-piperidin-4-ol was dissolved in 25 ml of dimethylformamide and treated with 0.14 g (0.0012 mol) of dimethylaminopyridine and 0.28 g (0.0023 mol) of benzoic acid. The mixture was cooled to 0° and 0.490 g (0.0025 mol) of N-ethyl-N'-(3-dimethylamino-propyl)-carbodiimide hydrochloride was added. The mixture was warmed to room temperature and stirred for 18 hrs. The solvent was distilled off and the residue was taken up in ethyl acetate and treated with silica gel. After removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane (1:3→1:2) as the eluent. 0.16 g (21%) of 1-(4-methoxy-benzyl)-piperidin-4-yl benzoate was obtained as a yellow oil. MS: me/e=326 (C20H24 NO3+).

reactant | 1-(4-methoxy-benzyl)-piperidin-4-ol | 0.0023 mol, 0.52 g | COC1=CC=C(CN2CCC(CC2)O)C=C1 | C13H19NO2
reactant | dimethylaminopyridine | 0.0012 mol, 0.14 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | benzoic acid | 0.0023 mol, 0.28 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N-ethyl-N'-(3-dimethylamino-propyl)-carbodiimide hydrochloride | 0.0025 mol, 0.490 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-(4-methoxy-benzyl)-piperidin-4-yl benzoate | 0.16 g, 21% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=CC=C(C=C1)OC | C20H23NO3
